US08034895B2
Synthesis of 2-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3-carbonitrile (R═NEt2)
In a round bottom flask (50 mL), 30 mg of 2-amino-thiophene-3-carbonitrile was added to 20 mL isopropanol to which was further added 5-diethylamino-thiophene-2-carbaldehyde (48 mg) and a catalytic amount of TFA. The mixture was refluxed for 3 hours. Complete removal of the solvent leads to an orange oil which was purified by flash chromatography (SiO2). The title compound was isolated as an orange solid (63%). 1H-NMR (300 MHz, [D] acetone): δ=8.44 (s, 1H), 7.54 (d, 1H, 3J=4.5 Hz), 7.09 (s, 2H), 6.13 (d, 1H, 3J=4.5 Hz), 3.54 (q, 4H, 3J=7.1 Hz), 1.27 (t, 6H, 3J=7.1 Hz). 13C-NMR (300 MHz, [D] acetone): δ=166.1, 153.2, 141.2, 131.9, 127.9, 123.3, 118.8, 116.0, 104.5, 101.5, 48.2, 12.4.

reactant | 2-amino-thiophene-3-carbonitrile | 30 mg | NC=1SC=CC1C#N | C5H4N2S
reactant | 5-diethylamino-thiophene-2-carbaldehyde | 48 mg | C(C)N(C1=CC=C(S1)C=O)CC | C9H13NOS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3-carbonitrile | C(C)N(C1=CC=C(S1)C=NC=1SC=CC1C#N)CC | C14H15N3S2
